US07772285B2
0.35 g of ethyl 2,3-dibromo-3-(4-methylphenyl)propanoate and 0.083 g of hydroxylamine hydrochloride was suspended in 7 mL of methanol, to which 0.19 g of a 28% solution of sodium methoxide in methanol was added at room temperature, and then this solution was stirred for 12 hours at the same temperature. The reaction mixture, to which water was added, was adjusted to pH 1 with 6M hydrochloric acid followed by addition of ethyl acetate, and the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out therefrom under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=4:1] to yield 0.12 g of 5-(4-methylphenyl)-3-isoxazolol as yellow oil.

reactant | ethyl 2,3-dibromo-3-(4-methylphenyl)propanoate | 0.35 g | BrC(C(=O)OCC)C(C1=CC=C(C=C1)C)Br | C12H14Br2O2
reactant | hydroxylamine hydrochloride | 0.083 g | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | methanol | 7 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-(4-methylphenyl)-3-isoxazolol | 0.12 g | CC1=CC=C(C=C1)C1=CC(=NO1)O | C10H9NO2
